US09284323B2
Preparation of ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)acetate:
A solution of ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate (9.37 g, 29.7 mmol) in THF (250 mL) was treated with N-phenyltriflimide (12.7 g, 35.6 mmol) followed by Cs2CO3 (19.3 g, 59.3 mmol). More THF (50 mL) was added to aide fluidity, and the reaction was stirred at 23° C. for 2 h. The reaction was added slowly to a premade mixture of saturated aq. Na2HPO4 (400 mL) and 2 M aq. NaHSO4 (120 mL). System was then stirred for 10 min, reaching a final pH of 8. It was extracted with 9:1 EtOAc/hexanes (3×200 mL). Combined organic layers were dried (Na2SO4), filtered, and concentrated. Hexane was added and the slurry was concentrated again to remove residual THF. The mix was treated with benzene and purified by silica gel chromatography (hexane→ethyl acetate) to give product that was contaminated with a small amount of PhNH(Tf). LCMS-ESI+ (m/z): [M-C4H9+H]+ calcd for C16H15F3O6S: 392.4. found: 392.6.

reactant | ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate | 29.7 mmol, 9.37 g | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)O | C19H24O4
reactant | N-phenyltriflimide | 35.6 mmol, 12.7 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Cs2CO3 | 59.3 mmol, 19.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHSO4 | 2 M, 120 mL | OS(=O)(=O)[O-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)acetate | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C20H23F3O6S
